US08476434B2
Ethyl 3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)-4-(trifluoromethyl)benzoate (2.50 g, 6 mmol) was suspended in EtOH (30 ml) and treated with 5N Sodium hydroxide (4 ml). The mixture was stirred at reflux overnight. The reaction was cooled down and the volatiles removed in vacuo. The residue was washed with diluted acetic acid (10:1 water:acetic acid) and then washed with water, to give 3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)-4-(trifluoromethyl)benzoic acid as a yellow solid, after drying in a vacuum oven at 60° C. overnight. MS m/z=361 [M+1]+. Calc'd for C17H11F3N4O2: 360.08.

reactant | Ethyl 3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)-4-(trifluoromethyl)benzoate | 6 mmol, 2.50 g | N1=CN=C(C=C1)C=1C(=NC=CC1)NC=1C=C(C(=O)OCC)C=CC1C(F)(F)F | C19H15F3N4O2
reactant | Sodium hydroxide | 5N, 4 ml | [OH-].[Na+]
solvent | EtOH | 30 ml | CCO | C2H6O
product | 3-(3-(pyrimidin-4-yl)pyridin-2-ylamino)-4-(trifluoromethyl)benzoic acid | N1=CN=C(C=C1)C=1C(=NC=CC1)NC=1C=C(C(=O)O)C=CC1C(F)(F)F | C17H11F3N4O2
